US08207347B2
3f 5-Ethyl-2,4-dimethyl-6-oxo-1-phenyl-1,6-dihydro-pyridine-3-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide
To a solution of 5-ethynyl-2,4-dimethyl-6-oxo-1-phenyl-1,6-dihydro-pyridine-3-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide (12.6 mg, 0.0294 mmol) in methanol (2 mL) 10% palladium on charcoal (9.1 mg) was added, It was degassed in vacuo and filled with hydrogen for 3 times then stirred vigorously for 90 min. It was evaporated, sonicated with ethyl acetate, filtered through a 2 g plug of silica gel, eluted with ethyl acetate and evaporated to give the title compound as a pale yellow solid residue (11.3 mg, yield=89%). LC-MS (m/z) 433.6 (MH+); tR=1.67 (method C). 1H NMR (T=+70° C., 500 MHz, DMSO-d6, DMSO-d5=2.50 ppm): 1.02 (t, J=7.3 Hz, 3H, Me of Et), 1.72 (overlapping s, 3H, Me), 1.74-1.85 (overlapping m, 4H), 1.89 (overlapping m, 1H), 2.04 (overlapping s, 3H, Me), 2.06 (overlapping br. m, 1H), 2.52 (overlapping with DMSO-d5 m, 2H, CH2 of Et), 2.68 (m, 1H, CH of Cb), 4.94 (t (unresolved dd), J=9.0; 9.5 Hz, CH—N), 7.01 (dt, J(d)=2 Hz, J(t)=8 Hz, 1H), 7.11-7.20 (m, 4H), 7.34 (q (unresolved dt), J(d)=6.3 Hz, J(t)=7.8 Hz, 1H), 7.45 (t, J=7.4 Hz, 1H, para-H of Ph), 7.52 (br. t, 2H, two meta-H of Ph), 8.60 (br. d, J=8.3 Hz, 1H, NH).

reactant | 5-ethynyl-2,4-dimethyl-6-oxo-1-phenyl-1,6-dihydro-pyridine-3-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide | 0.0294 mmol, 12.6 mg | C1(CCC1)[C@@H](C1=CC(=CC=C1)F)NC(=O)C1=C(N(C(C(=C1C)C#C)=O)C1=CC=CC=C1)C | C27H25FN2O2
solvent | methanol | 2 mL, 9.1 mg | CO | CH4O
product | 5-Ethyl-2,4-dimethyl-6-oxo-1-phenyl-1,6-dihydro-pyridine-3-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide | C1(CCC1)[C@@H](C1=CC(=CC=C1)F)NC(=O)C1=C(N(C(C(=C1C)CC)=O)C1=CC=CC=C1)C | C27H29FN2O2
